Porta logica negada



	Xp A B C S VDD VSS EXVINTE
	Cl S VSS 30fF

*** pulso ***
.PARAM tvdd=3V

VDD VDD 0 tvdd
VSS VSS 0 0
VIN VIN 0 PULSE (0 3 0 1p 1p 2n 4n)

.CONNECT A VDD
.CONNECT B VSS
.CONNECT C VIN


.TRAN 1n 40n 0n 1p
 
*** Delay ***
.MEAS TRAN DEL_H2H TRIG V(C) VAL=1.5V RISE=6 TARG V(S) VAL=1.5 RISE=6
.MEAS TRAN DEL_L2L TRIG V(C) VAL=1.5V FALL=6 TARG V(S) VAL=1.5 FALL=6

.PROBE TRANS V(A) V(B) V(C) V(S)
*
.include "exvinte.pex.netlist"
.include "~/para_prova/tipico.mod"

.end
