*Circuito

*Subcircuito
.include "exvinte.pex.netlist"
X A B C OUT VDD VSS EXVINTE
 
*Fontes
Vdd VDD 0 3V
Vss VSS 0 0V
VA A 0 3V
VB B 0 0V

VC C VSS PULSE (0 3.0 0 1p 1p 2n 4n)

*Modo de operacao
.tran 1n 30n 0n 10p
.plot v(c) v(out)
.plot extract meas(delayF)
.plot extract meas(delayR)

.meas tran delayF trig v(C) val=1.5 fall=5 targ v(OUT) val=1.5 fall=5
.meas tran delayR trig v(C) val=1.5 rise=5 targ v(OUT) val=1.5 rise=5

*Capacitancia
Cl OUT 0 30fF

.option SST_MTHREAD=1
* MONTE CARLO
.MC 1000 NBBINS=30
.INCLUDE profile.opt
.LIB wc53.lib mc

.end

